US09340538B2
Step B: 4-((6-(2-bromo-4-fluorophenyl)-2-(3-chloropyridin-2-yl)-5-(ethoxycarbonyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(3-chloropyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.81 g, 1.53 mmol) was reacted with morpholine-3-carboxylic acid (0.2 g, 1.53 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.36 g, 40%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(3-chloropyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.81 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=NC=CC=C1Cl | C19H15Br2ClFN3O2
reactant | morpholine-3-carboxylic acid | 1.53 mmol, 0.2 g | N1C(COCC1)C(=O)O | C5H9NO3
product | 4-((6-(2-bromo-4-fluorophenyl)-2-(3-chloropyridin-2-yl)-5-(ethoxycarbonyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.36 g, 40% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C1=NC=CC=C1Cl)CN1C(COCC1)C(=O)O)C(=O)OCC | C24H23BrClFN4O5
